US05420275
8-Amino-5-chloro-7-(3-aminophenyl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-038)
To 0.35 g of 3-amino-6-chloro-4,5-diethoxycarbonyl-2-(3-aminophenyl)pyridine was added 7.5 ml of hydrazine monohydrate, and the mixture was stirred at 90° C. for 30 minutes. The reaction mixture was poured into ice water (100 ml), and the mixture was adjusted to pH 6 by adding acetic acid. The resulting precipitate was collected by filtration and washed with water, followed by reprecipitation from DMSO-H2O, to give 0.23 g of the title compound as orange powder.

reactant | 3-amino-6-chloro-4,5-diethoxycarbonyl-2-(3-aminophenyl)pyridine | 0.35 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Cl)C1=CC(=CC=C1)N | C17H18ClN3O4
reactant | hydrazine monohydrate | 7.5 ml | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Amino-5-chloro-7-(3-aminophenyl)pyrido[3,4-d]pyridazine-1,4(2H,3H)dione | 0.23 g | NC1=C(N=C(C=2C(NNC(C21)=O)=O)Cl)C2=CC(=CC=C2)N | C13H10ClN5O2
